US07531482B2
Preparation of 4-Hydroxy-5-isopropyl-6-methylpyrimidine
550 ml of 12 percent hydrogen peroxide solution was heated to 60° C. 4-Hydroxy-5-isopropyl-6-methylpyrimidine-2-thiol (50 g, 0.27 mole) was added in portions. The temperature was maintained at 70-75° C. by rate of addition and application of external heat. 20 min. after completion of the addition approx. 150 ml of distillate was removed under vacuum. The pH was adjusted to 7-8 by addition of 50 percent NaOH solution and the solution of was saturated with solid NaCl. The precipitated product was taken up in 150 ml dichloromethane. The inorganic solids were removed from the aqueous phase by filtration and the filtrate was extracted with dichloromethane (4×50 mL). The combined extracts were dried over sodium sulfate and evaporated to yield 15.6 g (38 percent yield).

reactant | 4-Hydroxy-5-isopropyl-6-methylpyrimidine-2-thiol | 0.27 mole, 50 g | OC1=NC(=NC(=C1C(C)C)C)S | C8H12N2OS
solvent | hydrogen peroxide | 550 ml | OO | H2O2
product | 4-Hydroxy-5-isopropyl-6-methylpyrimidine | 38 percent yield | OC1=NC=NC(=C1C(C)C)C | C8H12N2O
